US07741322B2
To trifluoroacetic acid (1 mL) at room temperature was added benzyl-4-(3-hydroxy-6-methoxy-2-methyl-1-oxo-4-phenyl-1,2,3,4-tetra-hydroisoquinolin-3-yl)piperidine-1-carboxylate (215 mg, 0.443 mmol) with stirring. After 10 min. the reaction mixture was made basic with 2N sodium hydroxide, extracted with methylene chloride (3×) and dried with anhydrous sodium sulfate. Filtration followed by evaporation of solvent in vacuo gave a solid which was triturated with hexane-ethyl acetate to afford benzyl-4-(6-methoxy-2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)piperidine-1-carboxylate as a solid (141 mg, 0.292 mmol, 66%). MS [M+H]+ 483.2

reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzyl-4-(3-hydroxy-6-methoxy-2-methyl-1-oxo-4-phenyl-1,2,3,4-tetra-hydroisoquinolin-3-yl)piperidine-1-carboxylate | 0.443 mmol, 215 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1(N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)OC)=O)C)O | C30H32N2O5
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | benzyl-4-(6-methoxy-2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)piperidine-1-carboxylate | 0.292 mmol, 141 mg, 66% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)OC)=O)C | C30H30N2O4
